US07138425B2
c) 2-(3-Nitrophenyl)benzoxazole-6-carboxylic acid
A solution of lithium hydroxide (1.78 g, 65.0 mmol) in water (10 ml) was added to a solution of 2-(3-nitrophenyl)benzoxazole-6-carboxylic acid methyl ester (4.0 g, 14.8 mmol) in THF (30 ml). The reaction was heated to 60° C. for 4 h. The cooled reaction mixture was acidified with 2M HCl and the precipitate filtered, washed with water and dried under vacuum to give the subtitle compound (3.47 g, 92%). The product was used directly in the next step without purification.

reactant | lithium hydroxide | 65.0 mmol, 1.78 g | [OH-].[Li+]
reactant | 2-(3-nitrophenyl)benzoxazole-6-carboxylic acid methyl ester | 14.8 mmol, 4.0 g | COC(=O)C1=CC2=C(N=C(O2)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C15H10N2O5
reactant | HCl | 2M | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(3-Nitrophenyl)benzoxazole-6-carboxylic acid | 3.47 g, 92% | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H8N2O5
